US06022492
Synthesis of 2-(4-benzyloxy-2,3-difluorophenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine
The reaction of 35 mmol of 2-(4-benzyloxy-2,3-difluorophenyl)-5-bromopyrimidine, 44 mmol of 2-octyloxypyridine-5-boronic acid, 70 mmol of sodium carbonate and 0.4 mmol of tetakis(triphenylphosphine)palladium(0) in 120 ml of toluene, 60 ml of ethanol and 60 ml of water is carried out analogously to the procedure indicated for Example 1a). Corresponding chromatographic purification and recrystallization from ethyl acetate gives 10.7 g (61%) of colorless crystals, m.p. 120° C., cl.p. 182-183° C.

reactant | 2-(4-benzyloxy-2,3-difluorophenyl)-5-bromopyrimidine | 35 mmol | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)C1=NC=C(C=N1)Br)F)F | C17H11BrF2N2O
reactant | 2-octyloxypyridine-5-boronic acid | 44 mmol | C(CCCCCCC)OC1=NC=C(C=C1)B(O)O | C13H22BNO3
reactant | sodium carbonate | 70 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 2-(4-benzyloxy-2,3-difluorophenyl)-5-(6-octyloxypyridin-3-yl)pyrimidine | 10.7 g, 61% | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)C1=NC=C(C=N1)C=1C=NC(=CC1)OCCCCCCCC)F)F | C30H31F2N3O2
